US06900215B2
A solution of 3-bromo-2,4-difluorophenylamine (5.2 g, 25 mmol) and 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (7.10 g, 28.8 mmol) in tetrahydrofuran (95 ml) and water (5 ml) was treated with potassium fluoride (4.8 g, 82.5 mmol) and this mixture was degassed with nitrogen for 10 min before adding tris(dibenzylideneacetone)dipalladium(0) (460 mg, 0.5 mmol) and tri-tert-butylphosphine (2.5 ml of a 0.2M solution in 1,4-dioxane, 0.5 mmol). The reaction was then heated at 50° C. for 2 h then cooled to ambient temperature. The mixture was poured into ice-cold 0.5N sodium hydroxide (750 ml), stirred for 10 min and the solid collected by filtration. This was triturated with water and dried to afford 3′-amino-4,2′,6′-trifluorobiphenyl-2-carbonitrile as a grey powder (6.6 g). Used without further purification: δH (360 MHz, CDCl3) 3.74 (2H, br), 6.79-6.89 (2H, m), 7.36-7.42 (1H, m), 7.45-7.51 (2H, m).

reactant | 3-bromo-2,4-difluorophenylamine | 25 mmol, 5.2 g | BrC=1C(=C(C=CC1F)N)F | C6H4BrF2N
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 28.8 mmol, 7.10 g | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | potassium fluoride | 82.5 mmol, 4.8 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.5 mmol, 460 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3′-amino-4,2′,6′-trifluorobiphenyl-2-carbonitrile | 6.6 g | NC=1C(=C(C(=CC1)F)C=1C(=CC(=CC1)F)C#N)F | C13H7F3N2
